US07767675B2
Step 1. 2-Chloro-5-(4-fluorophenyl)pyrimidine
A mixture of 5-bromo-2-chloropyrimidine (500 mg, 2 mmol), 4-fluorophenylboronic acid (430 mg, 3.1 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (210 mg, 0.26 mmol) and potassium carbonate (1.8 g, 13 mmol) in 1,4-dioxane (6 mL) was irradiated under microwave at 120° C. for 30 min. After cooling, the solvent was evaporated. The residue was purified by flash chromatography eluting with ethyl acetate in hexanes to give the desired product. (376 mg) LCMS: (M+H)=209.0.

reactant | 5-bromo-2-chloropyrimidine | 2 mmol, 500 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 4-fluorophenylboronic acid | 3.1 mmol, 430 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-(4-fluorophenyl)pyrimidine | ClC1=NC=C(C=N1)C1=CC=C(C=C1)F | C10H6ClFN2
